US07858640B2
[8-chloro-3-(4-fluorobenzyl)-2-isopropoxy-4-methylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [8-chloro-3-(4-fluorobenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester (0.020 g), N,N-dimethylformamide (1.0 mL), potassium carbonate (0.020 g) and 2-iodopropane (0.050 g) was stirred at room temperature for 4 hour. The mixture was diluted with water (20 mL), extracted with ethyl acetate and the combined extracts washed with water and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:9 by volume) to afford title compound as a cream solid, 0.023 g.

reactant | [8-chloro-3-(4-fluorobenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester | 0.020 g | COC(COC1=C2C(=C(C(NC2=C(C=C1)Cl)=O)CC1=CC=C(C=C1)F)C)=O | C20H17ClFNO4
reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.020 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.050 g | IC(C)C | C3H7I
solvent | water | 20 mL | O | H2O
product | [8-chloro-3-(4-fluorobenzyl)-2-isopropoxy-4-methylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)OC(C)C)CC1=CC=C(C=C1)F)C)=O | C23H23ClFNO4
